US04218477
B. Synthesis of 3-amino-2'-ethyl-6'-methylpropionanilide.
The 3-bromo-2'-ethyl-6'-methylpropionanilide (13.5 g, 0.0500 mole) described above, potassium phthalimide (10.2 g, 0.0551 mole), and dimethylformamide (50 ml) were stirred under reflux for two hours. A mixture of glacial acetic acid (20 ml) and water (50 ml) was added with continued stirring until the mixture reached room temperature. The solid phthalimide derivative was filtered off, washed with water, and dried. The yield: 13.8 g (82.1%), m.p.: 208°-209.5° C. This product (13.8 g, 0.041 mole) was suspended in 250 ml alcohol and an amount of 85% hydrazine hydrate (4.0 ml) was added. The mixture was refluxed with stirring for two hours. Concentrated hydrochloric acid (8 ml) was added and the stirring was continued until the mixture reached room temperature. The solid was filtered off, was washed with some 95% ethanol, and was discarded. The solvents were evaporated from the filtrate and the residue was dissolved in water, was filtered, and made basic with 7 M sodium hydroxide, and was extracted exhaustively with methylene chloride. The extracts were dried (K2CO3), were filtered, and gaseous hydrogen chloride was fed into the solution. The salt that was formed was filtered off, was washed with methylene chloride, and was dried (9.5 g), and was recrystallized from alcohol-ether. Yield of 3-amino-2'-ethyl-6'-methylpropionanilide: 7.35 g, m.p.: 215.5°-216° C. Calcd. for C12H19ClN2O: C 59.4, H 7.89, Cl 14.6, N 11.5. Found: C 59.3, H 7.80, Cl 14.6, N 11.7.

reactant | 3-bromo-2'-ethyl-6'-methylpropionanilide | 0.0500 mole, 13.5 g | BrCCC(=O)NC1=C(C=CC=C1C)CC | C12H16BrNO
reactant | potassium phthalimide | 0.0551 mole, 10.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | hydrazine hydrate | 4.0 ml | O.NN
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-amino-2'-ethyl-6'-methylpropionanilide | NCCC(=O)NC1=C(C=CC=C1C)CC | C12H18N2O
